US05753682
A mixture of 4-(5-fluoro-3-hydroxyphenyl)-4-methoxy-3,4,5,6-tetrahydro-2H-pyran (1.4 g, 6.8 mmol), 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride (1.65 g, 6.8mmol) and potassium carbonate (7.2 g, 68 mmol) in dry DMF (10 ml) was stirred at 120° C. for 2 hours. The mixture was poured into water (100 ml) and extracted with ethyl acetate - benzene (300 ml, 2:1 v/v). The organic phase was washed with water (100 ml), brine (100 ml), dried (MgSO4) and evaporated. Purification of the residual yellow solids by column chromatograghy on silica gel (100 g) eluting with CH2Cl2 /methanol=10:1 and recrystallization from ethyl acetate-hexane gave 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-4-methoxy-3,4,5,6-tetrahydro-2H-pyran (1.0 g, 39%) as off-white solids.

reactant | 4-(5-fluoro-3-hydroxyphenyl)-4-methoxy-3,4,5,6-tetrahydro-2H-pyran | 6.8 mmol, 1.4 g | FC=1C=C(C=C(C1)C1(CCOCC1)OC)O | C12H15FO3
reactant | 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride | 6.8mmol, 1.65 g | Cl.CC=1N(C=CN1)C1=CC=C(CCl)C=C1
reactant | potassium carbonate | 68 mmol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-4-methoxy-3,4,5,6-tetrahydro-2H-pyran | 1.0 g, 39% | FC=1C=C(C=C(C1)C1(CCOCC1)OC)OCC1=CC=C(C=C1)N1C(=NC=C1)C | C23H25FN2O3
